US07745641B2
3-Amino-6-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]phthalimide (45.0 mg, 0.111 mmol) was dissolved in acetonitrile (2 mL), and the solution was added with 1-(2-hydroxyethyl)piperazine (57 mg, 0.440 mmol), acetic acid (0.508 mL, 8.87 mmol) and sodium triacetoxyborohydride (118 mg, 0.557 mmol), followed by stirring at room temperature for 2.5 hours. The reaction mixture was added with water and sodium carbonate, extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography (hexane/ethyl acetate=4/1, 1/1) to obtain 3-amino-6-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)piperazin-1-ylmethyl]indol-2-yl}phthalimide (22.2 mg, yield 38%).

reactant | 3-Amino-6-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]phthalimide | 0.111 mmol, 45.0 mg | NC1=C2C(C(=O)NC2=O)=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C | C22H19N3O5
reactant | 1-(2-hydroxyethyl)piperazine | 0.440 mmol, 57 mg | OCCN1CCNCC1 | C6H14N2O
reactant | acetic acid | 8.87 mmol, 0.508 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.557 mmol, 118 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-amino-6-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)piperazin-1-ylmethyl]indol-2-yl}phthalimide | 22.2 mg, yield 38% | NC1=C2C(C(=O)NC2=O)=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO)C(=O)OC(C)(C)C | C28H33N5O5
